US07056917B2
(H) 4-[(4-Isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinamine
tert-Butyl N-{4-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridyl}carbamate (706 mg, 2.202 mmol) dissolved in dichloromethane (20 ml) was added dropwise with trifluoroacetic acid (20 ml) under ice cooling, then warmed to room temperature and stirred for 2 hours. The reaction solution was concentrated under reduced pressure, diluted with chloroform, then neutralized with saturated aqueous sodium hydrogencarbonate and extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=50:1→30:1→20:1) to obtain 331 mg (66%) of the title compound.

reactant | tert-Butyl N-{4-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridyl}carbamate | 2.202 mmol, 706 mg | C(C)(C)C=1N=C(SC1)COC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C17H23N3O3S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[(4-Isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinamine | 331 mg, 66% | C(C)(C)C=1N=C(SC1)COC1=CC(=NC=C1)N | C12H15N3OS
